Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Ultracet
 
Attending: ___
 
Chief Complaint:
palpitations
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Pt is a ___ with h/o AF who recently left against medical advice
from ___ on ___ after a hospitalization for atrial 
flutter.
He returns with recurrent palpitations that occurred soon after
his departure, with a desire for ablation.

Briefly his ___ Cardiology course is summarized as follows.
-Presented with 1 hour of "heart racing" palpitations after a 
few
shots of vodka before arrival.
-EP consulted and recommended TEE/ablation.
-Given his symptoms with Aflutter, was scheduled for TEE and
Aflutter ablation on ___.  However he left AGAINST MEDICAL
ADVICE as he was in the holding area awaiting this procedure. 
His exit team was closely working to try to obtain DOAc 
coverage,
and had in fact obtained a coupon for 4 weeks of apixaban as an
outpatient - but he departed before he could receive this 
coupon.
-Team was working closely on his antihypertensive regimen prior
to discharge, with goals to increase his lisinopril for goal SBP
< 140.

In the ED, initial vitals: T 97.9 BP 160/84 HR 59 RR 18 O2 100%
on RA 
   
 - Exam notable for: 
"Constitutional: Comfortable
HEENT: Normocephalic, atraumatic
Chest: Clear to auscultation
Cardiovascular: Irregular, no murmurs
Abdominal: Soft
GU/Flank: No costovertebral angle tenderness
Extr/Back: Left hand contractures
Skin: No rash
Neuro: Left upper extremity weakness
Psych: EtOH on board."

 - Labs notable for:  
---Serum tox negative
---Hb 16, WBC 8.3
---Cr 0.5
---Trop < 0.01, MB 2

 - Imaging notable for:  
---EKG (___):  Aflutter with 2:1 block.  Stable compared to
priors; 2:1 block is more regularized compared to his initial
presenting EKG on ___.

 - Pt given:  
---Magnesium oxide 400
---Metoprolol tartrate 37.5mg
---Nicotine patch 

 - Vitals prior to transfer: BP 139/103 HR 79 RR 16 O2 95% on RA

On arrival to the floor, the patient endorses that he wants to
leave immediately.  He wants to "step out and get some fresh
air."  When I tell him he can't, he says, "Well I guess I'm a
prisoner then, aren't I?"
 
REVIEW OF SYSTEMS: Patient refuses to answer questions of review
of systems, asking to step out and asking for pain medications
for his shoulder.

 
Past Medical History:
Per OMR review of admission note ___.
? CVA in ___
Homelessness
Etoh use disorder
?Opioid use disorder w ?recent overdose
Afib 
 
Social History:
___
Family History:
Not discussed
 
Physical ___:
ADMISSION PHYSICAL EXAM
VITALS: ___ 0735 Temp: 97.9 PO BP: 147/94 HR: 79 RR: 20 O2
sat: 96% O2 delivery: RA 
GEN: Caucasian gentleman, poorly groomed, smells of tobacco. 
Asking to step out for "some fresh air."
HEENT: sclera anicteric, MMM
NECK: no frank JVD.
CARDIAC: Irregularly irregular, normal S1/S2, no murmurs 
LUNGS: normal work of breathing on RA, CTAB
ABDOMEN: Turns to lie on his side, defers further examination.
GU: No foley
EXTREMITIES: no lower extremity edema.  Left upper extremity 
held
in contracture, owing to stroke per Pt.
NEURO: A&O to self.  
Left shoulder: no skin changes on exam, refused further exam

DISCHARGE PHYSICAL EXAM: Patient left AMA. Declined exam. 
 
Pertinent Results:
LABS:

___ 01:19PM BLOOD WBC-9.2 RBC-4.98 Hgb-15.9 Hct-45.3 MCV-91 
MCH-31.9 MCHC-35.1 RDW-13.1 RDWSD-42.5 Plt ___
___ 01:19PM BLOOD Neuts-68.4 ___ Monos-7.1 Eos-1.1 
Baso-0.4 Im ___ AbsNeut-6.26* AbsLymp-2.08 AbsMono-0.65 
AbsEos-0.10 AbsBaso-0.04
___ 01:19PM BLOOD ___ PTT-38.3* ___
___ 01:19PM BLOOD Glucose-104* UreaN-9 Creat-0.6 Na-142 
K-4.2 Cl-102 HCO3-24 AnGap-16
___ 01:19PM BLOOD cTropnT-<0.01 proBNP-PND
___ 01:19PM BLOOD Calcium-9.9 Phos-3.5 Mg-1.9
___ 01:19PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG
 
Brief Hospital Course:
Outpatient Providers: ___ gentleman w hx afib, etoh use 
disorder, homelessness, and
possible CVA, who initially presented w palpitations and was
found to be in a-flutter. Admitted given complex social
situation, then left AMA and re-presented hours later with 
similar symptomatic
palpitations.

ACUTE ISSUES 
# AMA
Patient articulated his understanding that he would be at risk 
for stroke if he left AMA. He kept repeating that he needed to 
leave for a cigarette. Per floor policy, this was not possible. 
Psychiatry evaluated him and deemed him to have capacity. 

# Aflutter
Patient reported hx afib, found to be in flutter w rate control 
when presented. He was planned for atrial flutter ablation and 
TEE on ___ but left against medical advice prior to 
completion of this procedure. He re-presented with symptomatic 
palpitations and was again found to be in Aflutter in variable 
block (2:1 on EKG, 4:1 on telemetry). He was hemodynamically 
stable without any evidence of end-organ malperfusion. He was 
put on heparin gtt and made NPO in anticipation of TEE/aflutter 
ablation on ___, but left AGAINST MEDICAL ADVICE again. He 
was instructed to go to ___ to pick up metoprolol 
and apixaban, which should have been free for patient.

# Substance use disorder
# Homelessness
Patient reported etoh use disorder as well as homelessness. 
Denies hx etoh withdrawal, seizures. Scored on CIWA ___. 
Addiction psych was consulted, but patient left prior to them 
being able to see patient. 

CHRONIC/STABLE ISSUES:
# HISTORY OF CVA:
-Sent atorvastatin 40mg to pharmacy for patient to pick up free 
supply. 

TRANSITIONAL ISSUES:
====================
[ ] Patient would benefit from ablation for aflutter. (He also 
has an upcoming ___ appointment with EP in ___ 
[ ] Patient wanted to smoke a cigarette so he left AMA. Suspect 
previous AMA episode related to substances given he re-presented 
to the E.D. just hours after his first departure AMA. Would get 
psych and addiction psych involved on future presentations 
before considering further bed request. ___ also be a component 
of mental disability from prior stroke and history of alcohol 
use disorder and heroin overdose. 
[ ] Patient discharged with 10mg lisinopril to target SBP <140 
after stroke and given elevated blood pressures during hospital 
stay. 

# Contact: ___, brother, ___ 
# Code status: Full, presumed 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lisinopril 5 mg PO DAILY 
2. Acetaminophen 1000 mg PO Q8H 
3. Lidocaine 5% Patch 1 PTCH TD QPM 

 
Discharge Medications:
1.  Atorvastatin 40 mg PO QPM  
2.  Lisinopril 10 mg PO DAILY  
3.  Metoprolol Succinate XL 25 mg PO DAILY 
RX *metoprolol succinate 25 mg 1 tablet(s) by mouth Daily Disp 
#*30 Tablet Refills:*0 
4.  Apixaban 5mg BID

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS:
Atrial flutter with variable block

SECONDARY DIAGNOSES:
History of opioid use disorder
History of alcohol use disorder

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

WHY WAS I SEEN IN THE HOSPITAL?
-You were having palpitations.

WHAT HAPPENED WHILE I WAS IN THE HOSPITAL?
-You wanted to come back to wait for your ablation to help with 
your palpitations.  
-However, you decided to leave AGAINST MEDICAL ADVICE before 
your ablation.
-You understood that you could sustain serious injury or death - 
and still elected to leave AGAINST MEDICAL ADVICE.

WHAT SHOULD I DO WHEN I LEAVE THE HOSPITAL?
-Please take your medicines as prescribed.
-Please call the ___ Department of Electrophysiology at 
___ to try to schedule an ablation for your fast heart 
rates.

We wish you the best,
Your ___ Care Team
 
Followup Instructions:
___